US07105507B2
1,1-Dimethylethyl 4-Ethyl-4-hydroxy-1-piperidinecarboxylate
1,1-Dimethylethyl 4-oxo-1-piperidinecarboxylate (10.1 g, 50.7 mmol) in tetrahydrofuran (40 mL) was added dropwise over 30 minutes to a stirred, cooled (0° C.) solution of ethyl magnesium bromide (1.0M in tetrahydrofuran, 50.7 mL, 50.7 mmol) in tetrahydrofuran (30 mL). The mixture was allowed to warm to room temperature and stirred for 4 hours. The mixture was poured into saturated aqueous ammonium chloride (150 mL) and extracted with ethyl acetate (2×150 mL). The combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with 3:1 isohexane:ethyl acetate, to give the title compound (8.5 g, 73%). m/z (ES+) 230 (M+1).

reactant | 1,1-Dimethylethyl 4-oxo-1-piperidinecarboxylate | 50.7 mmol, 10.1 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | ethyl magnesium bromide | 50.7 mmol, 1.0M, 50.7 mL | C(C)[Mg]Br
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-Ethyl-4-hydroxy-1-piperidinecarboxylate | 8.5 g, 73% | C(C)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C12H23NO3
